US05753634
Using essentially the same procedure as in Example 1(a), tetraisopropyl methylene diphosphonate is converted to tetraisopropyl dihydro-2-pyrindine-6,6-diphosphonate by reaction with 3,4-bis(chloromethyl)pyridine. The resulting ester is hydrolyzed as in Example 1(a) to yield dihydro-2-pyrindine-6,6-diphosphonic acid. The dihydro-2-pyrindine-6,6-diphosphonic acid is then converted to the octahydro-2-pyrindine-6,6-diphosphonic acid by a hydrogenation procedure which is essentially the same as in Example 1(b). Substituted octahydro-2-pyrindine-6,6-diphosphonic acid compounds are prepared as described hereinbefore, in Example 1, by using as the starting material the appropriately substituted 3,4-bis(chloromethyl)pyridine.

reactant | tetraisopropyl dihydro-2-pyrindine-6,6-diphosphonate | C1NC=CC2=CC(C=C12)(P(OC(C)C)(=O)OC(C)C)P(OC(C)C)(=O)OC(C)C | C20H35NO6P2
reactant | 3,4-bis(chloromethyl)pyridine | ClCC=1C=NC=CC1CCl | C7H7Cl2N
product | dihydro-2-pyrindine-6,6-diphosphonic acid | C1NC=CC2=CC(C=C12)(P(O)(=O)O)P(O)(=O)O | C8H11NO6P2
